US07897607B2
2-Bromo-6-mesitylpyridine
2,6-Dibromopyridine (9.47 g, 40 mmol) was dissolved in 80 mL of 1,2-dimethoxyethane (1,2-dimethoxyethane). Tetrakis(triphenylphosphine)palladium(0) (2.31 g, 2.00 mmol) was added and the mixture was heated at 50° C. for 15 min. The solution was cooled and 2,4,6-trimethylbenzeneboronic acid (6.56 g, 40 mmol) dissolved in 40 mL of 1,2 dimethoxyethane was added. Finally, potassium t-butoxide (8.97 g, 80 mmol) was added as a solution in 40 mL of t-butanol. The reaction was heated for 0.5 h at 90° C. The solution was cooled and filtered through celite. Flash chromatography (2% ethyl acetate/hexanes) gave 7.48 g (68% yield) of the title compound.

reactant | 2,6-Dibromopyridine | 40 mmol, 9.47 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 2,4,6-trimethylbenzeneboronic acid | 40 mmol, 6.56 g | CC1=C(C(=CC(=C1)C)C)B(O)O | C9H13BO2
reactant | potassium t-butoxide | 80 mmol, 8.97 g | CC(C)([O-])C.[K+]
solvent | 1,2-dimethoxyethane | 80 mL | COCCOC | C4H10O2
solvent | 1,2 dimethoxyethane | 40 mL | COCCOC | C4H10O2
solvent | t-butanol | 40 mL | C(C)(C)(C)O | C4H10O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 2.00 mmol, 2.31 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Bromo-6-mesitylpyridine | 7.48 g, 68% yield | BrC1=NC(=CC=C1)C1=C(C=C(C=C1C)C)C | C14H14BrN
